US08309595B2
B) N′-[(3Z)-1-benzyl-6-methoxy-2-oxo-1,2-dihydro-3H-indol-3-ylidene]benzohydrazide
The title compound was prepared as a yellow solid, using 1- benzyl-6-methoxy-isatin and benzhydrazide according to the synthetic method E. 1H NMR (CDCl3): δ 3.77 (s, 3H), 4.94 (s, 2H), 6.35 9d, 1H), 6.62 (dd, 1H), 7.29-7.36 (m, 4H), 7.51 (t, 2H), 7.59 (t, 1H), 7.80 (d, 1H), 8.01 (d, 2H), 13.95 (br s, 1H).

reactant | 1- benzyl-6-methoxy-isatin | C(C1=CC=CC=C1)N1C(=O)C(=O)C2=CC=C(C=C12)OC | C16H13NO3
reactant | benzhydrazide | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
product | N′-[(3Z)-1-benzyl-6-methoxy-2-oxo-1,2-dihydro-3H-indol-3-ylidene]benzohydrazide | C(C1=CC=CC=C1)N1C(\C(\C2=CC=C(C=C12)OC)=N/NC(C1=CC=CC=C1)=O)=O | C23H19N3O3
